US07691882B2
5-Bromo-2-phenoxy-pyridine
A mixture of 2,5-dibromo pyridine (25 g, 106 mmol), phenol (10.5 g, 111 mmol), potassium tert-butoxide (12.5 g, 111 mmol) and dimethyl sulfoxide (250 mL) was stirred for 4 hours at 160° C. This mixture was cooled to room temperature, and partitioned into ethyl acetate and water. The organic layer was separated, washed with water, dried with anhydrous magnesium sulfate, and then filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=10:1) to obtain the title compound (18.7 g, 70%).

reactant | 2,5-dibromo pyridine | 106 mmol, 25 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | phenol | 111 mmol, 10.5 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium tert-butoxide | 111 mmol, 12.5 g | CC(C)([O-])C.[K+]
solvent | dimethyl sulfoxide | 250 mL | CS(=O)C | C2H6OS
product | 5-Bromo-2-phenoxy-pyridine | 18.7 g, 70% | BrC=1C=CC(=NC1)OC1=CC=CC=C1 | C11H8BrNO
